US05420151
Sodiumcyanoborohydride (1.3 g, 20.7 mmol) was added during 10 min. to a stirred solution of (R)-8-fluoro-5-methoxy-3-(N-3-pentylamino)chroman (3.69 g, 13.8 mmol) and propionaldehyde (5 ml, 69.3 mmol) in 100 ml dry MeOH. The pH was adjusted with acetic acid to pH 6. The solution was stirred in room temp. for 18 hours and propionaldehyde (1 ml, 13.7 mmol) was added. After stirring at room temp. for 3.5 hours the solution was concentrated, and the residue was partitionated between 100 ml 2M NH3 and 200 ml ether. Extraction with 2×200 ml ether and drying of the combined organic layers (Na2SO4) gave after evaporation a crude product. Purification by flash chromatography on silica with hexane:acetone 20:1 gave 4.03 g of (R)-8-fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman as an uncolored oil. [α]D22 -83° (c 1.08 in MeOH).

reactant | Sodiumcyanoborohydride | 20.7 mmol, 1.3 g | C(#N)[BH3-].[Na+]
reactant | (R)-8-fluoro-5-methoxy-3-(N-3-pentylamino)chroman | 13.8 mmol, 3.69 g | FC=1C=CC(=C2C[C@H](COC12)NC(CC)CC)OC | C15H22FNO2
reactant | propionaldehyde | 69.3 mmol, 5 ml | C(CC)=O | C3H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | propionaldehyde | 13.7 mmol, 1 ml | C(CC)=O | C3H6O
solvent | MeOH | 100 ml | CO | CH4O
product | (R)-8-fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman | 4.03 g | FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)OC | C18H28FNO2
